US07157447B2
1-(2-Bromo-5-fluorophenyl)-3,5-dimethyl-1H-1,2,4-triazole.
A mixture of 1-(2-bromo-5-fluoro-phenyl)-hydrazine hydrochloride (24.15 g, 100 mmol) and diacetamide (10.1 g, 100 mmol; Aldrich) in anhydrous pyridine (100 mL) was stirred in an oil bath heated at 125–130° C. under nitrogen for 2 h. After cooling the mixture was concentrated in vacuo to dryness, and the residue diluted with EtOAc (100 mL) was washed with water (50 mL), and then with brine (30 mL), dried (Na2SO4), filtered and concentrated to obtain 24.2 g of the title compound as a brownish oil: HPLC rt=1.59 min. LC/MS m/z 270/272 (M+H); 1H NMR (CDCl3, 500 MHz) δ ppm 2.30 (3H, s, 9-Me), 2.39 (3H, s, 10-Me), 7.10–7.15 (2H, m, 3,5-CH), 7.67 (1H, dd, J=8.5, 5.5 Hz, 6-H); 13C NMR (CDCl3, 125.8 Hz) δ ppm 12.4 (9-CH3), 13.8 (10-Me), 116.5 (d, J=4 Hz, 1-C), 117.2, (d, J=24 Hz, 3-CH), 118.9 (d, J=22 Hz, 5-CH), 134.7 (d, J=8.5 Hz, 6-CH), 137.8 (d, J=10 Hz, 2-C), 153.9 (7-C), 160.9 (8-C), 161.8 (d, J=251 Hz, 4-CF); HRMS (ESI) calcd for C10H10BrFN3 (M+H) 270.0042. found 270.0048 (δ +2.2 ppm). This triazole was also prepared in 62% yield from 1-(2-bromo-5-fluoro-phenyl)-hydrazine hydrochloride and 2,4,6-trimethyl-s-triazine by refluxing them in EtOH.

reactant | 1-(2-bromo-5-fluoro-phenyl)-hydrazine hydrochloride | 100 mmol, 24.15 g | Cl.BrC1=C(C=C(C=C1)F)NN
reactant | diacetamide | 100 mmol, 10.1 g | CC(=O)NC(=O)C | C4H7NO2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 1-(2-Bromo-5-fluorophenyl)-3,5-dimethyl-1H-1,2,4-triazole | 24.2 g, 62% yield | BrC1=C(C=C(C=C1)F)N1N=C(N=C1C)C | C10H9BrFN3
